US07943622B2
Step 2. Synthesis of (6-phenylpyridin-2-yl)(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)methanone dihydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to a solution of tert-butyl 4-(6-phenylpicolinoyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate (143 mg, 0.231 mmol) in MeOH (1 mL). After stirring overnight, the reaction mixture was concentrated under reduced pressure, yielding 102.1 mg (99%) of the title compound. LC-MS: RT=4.36 min, [M+H]+=375.6.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 4-(6-phenylpicolinoyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate | 0.231 mmol, 143 mg | C1(=CC=CC=C1)C1=CC=CC(=N1)C(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)COC=1C=NC=CC1 | C27H30N4O4
solvent | MeOH | 1 mL | CO | CH4O
product | (6-phenylpyridin-2-yl)(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)methanone dihydrochloride | 102.1 mg, 99% | Cl.Cl.C1(=CC=CC=C1)C1=CC=CC(=N1)C(=O)N1C(CNCC1)COC=1C=NC=CC1 | InChI=1S/C22H22N4O2.2ClH/c27-22(21-10-4-9-20(25-21)17-6-2-1-3-7-17)26-13-12-24-14-18(26)16-28-19-8-5-11-23-15-19;;/h1-11,15,18,24H,12-14,16H2;2*1H
